US06723722B1
4-(7-Bromo-2H-benzopyran-3-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone dihydrochloride
A suspension of 4-(7-bromo-2H-benzopyran-3-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone (600 mg) in methanol (20 ml) was combined with a 4N solution of hydrochloric acid in ethyl acetate (1 ml) to effect a dissolution and the solution was then concentrated. The residue was crystallized from a mixture of ethanol and ethyl acetate, filtered and dried to obtain the title compound (596 mg) as a colorless solid.

reactant | 4-(7-bromo-2H-benzopyran-3-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone | 600 mg | BrC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)NC2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | C23H26BrN5O4S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 4-(7-Bromo-2H-benzopyran-3-sulfonyl)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-piperazinone dihydrochloride | 596 mg | Cl.Cl.BrC1=CC2=C(C=C(CO2)S(=O)(=O)N2CC(N(CC2)NC2CCN(CC2)C2=CC=NC=C2)=O)C=C1 | InChI=1S/C23H26BrN5O4S.2ClH/c24-18-2-1-17-13-21(16-33-22(17)14-18)34(31,32)28-11-12-29(23(30)15-28)26-19-5-9-27(10-6-19)20-3-7-25-8-4-20;;/h1-4,7-8,13-14,19,26H,5-6,9-12,15-16H2;2*1H
